US07915443B2
(S)-N-[{3-[4-(2-hydroxyethyl)piperazin-1-yl]propyl}(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
In a manner similar to that described for Example 508, N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide and 1-piperazineethanol were converted to the title compound.

reactant | N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
reactant | 1-piperazineethanol | N1(CCNCC1)CCO | C6H14N2O
product | (S)-N-[{3-[4-(2-hydroxyethyl)piperazin-1-yl]propyl}(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OCCN1CCN(CC1)CCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C35H37N5O5S
